US04382958
N-[2-(4-(2-Hydroxyethoxy)phenyl)-1-methylethyl]-2-hydroxy-2-(2-fluorophenyl)ethanamine
A mixture of 1-(4-carbomethoxymethoxyphenyl)propan-2-one (2.22 g) and 2-hydroxy-2-(2-fluorophenyl)ethanamine (1.55 g) in benzene (100 ml) was boiled under reflux with azeotropic removal of water using a Dean and Stark trap, for 2 hours. The solution was cooled, evaporated to dryness, the residue dissolved in methanol and sodium borohydride (500 mg) added. After 30 minutes, the methanol was evaporated and the residue partitioned between ethyl acetate and water. The organic layer was dried (magnesium sulphate) and evaporated to leave an oil which was chromatographed on silica gel 60 eluting with 2% methanol/chloroform. N-[2-(4-(2-hydroxyethoxy)phenyl-1-methylethyl]-2-hydroxy-2-(2-fluorophenyl)ethanamine (300 mg) crystallised from hexane, m.p. 80°-95°, as a 55:45 mixture of diastereoisomers.

reactant | 1-(4-carbomethoxymethoxyphenyl)propan-2-one | 2.22 g | C(=O)(OC)COC1=CC=C(C=C1)CC(C)=O | C12H14O4
reactant | 2-hydroxy-2-(2-fluorophenyl)ethanamine | 1.55 g | OC(CN)C1=C(C=CC=C1)F | C8H10FNO
reactant | water | O | H2O
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | N-[2-(4-(2-Hydroxyethoxy)phenyl)-1-methylethyl]-2-hydroxy-2-(2-fluorophenyl)ethanamine | OCCOC1=CC=C(C=C1)CC(C)NCC(C1=C(C=CC=C1)F)O | C19H24FNO3
